US05270313
A solution of 512 mg of p-(benzyloxy)-N-[5-(p-chlorophenyl)-6-(2-hydroxyethoxy)-4-pyrimidinyl]benzene-sulfonamide in 30 ml of glacial acetic acid was treated with 2 ml of 4N HCl in dioxane and 100 mg of 10% palladium-carbon. The mixture was hydrogenated while stirring, thereafter the solution was suction filtered, evaporated under reduced pressure and the residue was recrystallized from isopropyl ether and again from CH3CN. There was obtained N-[5-(p-chlorophenyl)-4-pyrimidinyl]-p-hydroxybenzenesulfonamide, melting point 231°-232° C.

reactant | p-(benzyloxy)-N-[5-(p-chlorophenyl)-6-(2-hydroxyethoxy)-4-pyrimidinyl]benzene-sulfonamide | 512 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1C1=CC=C(C=C1)Cl)OCCO | C25H22ClN3O5S
reactant | HCl | 4N, 2 ml | Cl | ClH
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | palladium-carbon | 100 mg | [C].[Pd]
product | N-[5-(p-chlorophenyl)-4-pyrimidinyl]-p-hydroxybenzenesulfonamide | ClC1=CC=C(C=C1)C=1C(=NC=NC1)NS(=O)(=O)C1=CC=C(C=C1)O | C16H12ClN3O3S
